US06727264B1
N-(4-{1-[(3R)-3-(3,4-DIMETHOXYPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of 4-{1-[(3R)-3-(3,4-dimethoxyphenoxy)-3-phenylpropyl]-4-piperidinyl}aniline (5.31 mg, 0.0119 mmol), isobutyryl chloride (2.08 mg, 0.019 mmol), N,N-diisopropylethylamine (8.40 mg, 0.0650 mmol) in methylene chloride (1.0 mL) was stirred at room temperature for 24 hours. The reaction mixture was concentrated and chromatographed using a preparative TLC plate [2.5% of NH3 (2.0 M in methanol) in CHCl3] to give the product (3.5 mg, 56.5%) as a thick oil: 1H NMR (400 MHz, CDCl3) δ 7.38 (d, 1H, J=8.6 Hz), 7.30-7.20 (m, 4H), 7.20 (m, 1H), 7.11 (d, 2H, J=8.6 Hz), 7.04 (s, 1H), 6.57 (d, 1H, J=8.3 Hz), 6.44 (d, 1H, J=2.6 Hz), 6.22 (dd, 1H, J=2.6, 8.3 Hz), 5.09 (apparent dd, 1H, J=4.4, 8.1 Hz), 3.72 (s, 3H), 3.70 (s, 3H), 3.08 (m, 2H), 2.57 (m, 2H), 2.43 (apparent sept, partially hidden, 2H, J=6.8 Hz), 2.30-2.10 (m, 6H), 1.80 (m, 2H), 1.25 (d, 6H, J=7.9 Hz); ESMS m/e: 517.3 (M+H)+.

reactant | 4-{1-[(3R)-3-(3,4-dimethoxyphenoxy)-3-phenylpropyl]-4-piperidinyl}aniline | 0.0119 mmol, 5.31 mg | COC=1C=C(O[C@H](CCN2CCC(CC2)C2=CC=C(N)C=C2)C2=CC=CC=C2)C=CC1OC | C28H34N2O3
reactant | isobutyryl chloride | 0.019 mmol, 2.08 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | N,N-diisopropylethylamine | 0.0650 mmol, 8.40 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{1-[(3R)-3-(3,4-DIMETHOXYPHENOXY)-3-PHENYLPROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 3.5 mg, 56.5% | COC=1C=C(O[C@H](CCN2CCC(CC2)C2=CC=C(C=C2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1OC | C32H40N2O4
